US08039469B2
Preparation of 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-phenylurea
Starting from 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline (140 mg, 0.40 mmoles) and phenyl isocyanate (72 mg, 0.61 mmoles), the title compound was isolated as a white solid. The product was purified by Silica gel column chromatography by eluting it with ethyl acetate. Yield: 0.128 g (68%) (M+H)=462.3.

reactant | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 0.40 mmoles, 140 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
reactant | phenyl isocyanate | 0.61 mmoles, 72 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-phenylurea | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N7O3
